US07700628B2
Preparation of 2-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(3-hydroxy-pyrrolidin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide
Using methods substantially equivalent to those described in example 4-F except that the workup used saturated aqueous citric acid instead of water, 2-[2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)-4-(3-hydroxypyrrolidin-1-yl)benzoylamino]-N-(5-chhloro-pyridin-2-yl)benzamide (160 mg, 0.25 mmol, 47%) was prepared from 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide and 3-hydroxypyrrolidine.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide | FC1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C29H30ClFN4O5
reactant | 3-hydroxypyrrolidine | OC1CNCC1 | C4H9NO
product | 2-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(3-hydroxy-pyrrolidin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=CC(=C1)N1CC(CC1)O | C33H38ClN5O6
